US07994176B2
2-(2,6-Dichloro-4-methoxy-benzyl)-isoindole-1,3-dione
Stir a mixture of potassium phthalimide (1.85 g, 10 mmol), 2-bromomethyl-1,3-dichloro-5-methoxy-benzene (2.68 g, 10 mmol) and DMF (20 mL) at 50° C. for 12 hours. Cool the reaction and dilute with ethyl acetate (60 mL) and wash with water three times and brine one time. After drying the organic layer over sodium sulfate, filter and concentrate under vacuum. Purify the residue by silica gel chromatography with 1:3 ethyl acetate/hexane to afford 2.74 g (82%) of the title compound. MS (m/z): 336 (M+H)+.

reactant | potassium phthalimide | 10 mmol, 1.85 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 2-bromomethyl-1,3-dichloro-5-methoxy-benzene | 10 mmol, 2.68 g | BrCC1=C(C=C(C=C1Cl)OC)Cl | C8H7BrCl2O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-Dichloro-4-methoxy-benzyl)-isoindole-1,3-dione | 2.74 g, 82% | ClC1=C(CN2C(C3=CC=CC=C3C2=O)=O)C(=CC(=C1)OC)Cl | C16H11Cl2NO3
